************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: FinalExam
* View Name:     schematic
* Netlisted on:  Nov 29 11:34:33 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM p5vonly=0
+ phires=0

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Week4Lab1stInverter
* View Name:    schematic
************************************************************************

.SUBCKT Week4Lab1stInverter in out
*.PININFO in:I out:O
MTN0 out in gnd! gnd! nfet m=1 l=180n w=600n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 out in vdd! vdd! pfet m=1 l=180n w=1.8u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Lab4NOR
* View Name:    schematic
************************************************************************

.SUBCKT Lab4NOR a b out
*.PININFO a:I b:I out:O
MTN1 out a gnd! gnd! nfet m=1 l=180n w=400n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTN0 out b gnd! gnd! nfet m=1 l=180n w=400n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP1 out b net10 vdd! pfet m=1 l=180n w=1.99u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 net10 a vdd! vdd! pfet m=1 l=180n w=1.99u nf=1 par=1 rf=0 gcon=1 
+ mSwitch=0 bentgate=0 psp=0 idg=0 gns=0
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Lab4NAND
* View Name:    schematic
************************************************************************

.SUBCKT Lab4NAND a b out
*.PININFO a:B b:B out:B
MTN1 out a net13 gnd! nfet m=1 l=180n w=1.44u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTN0 net13 b gnd! gnd! nfet m=1 l=180n w=1.44u nf=1 par=1 rf=0 gcon=1 
+ mSwitch=0 bentgate=0 psp=0 idg=0 gns=0
MTP1 out b vdd! vdd! pfet m=1 l=180n w=2.4u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 out a vdd! vdd! pfet m=1 l=180n w=2.4u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
.ENDS

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    FinalExam
* View Name:    schematic
************************************************************************

.SUBCKT FinalExam A B C Y
*.PININFO A:B B:B C:B Y:B
XI41 net014 net07 / Week4Lab1stInverter
XI42 net013 net011 / Week4Lab1stInverter
XI10 B net8 / Week4Lab1stInverter
XI15 C net06 / Week4Lab1stInverter
XI43 net012 net010 / Week4Lab1stInverter
XI38 net8 C net014 / Lab4NOR
XI37 net010 net011 Y / Lab4NOR
XI40 net06 net8 net013 / Lab4NAND
XI39 A net07 net012 / Lab4NAND
.ENDS

