************************************************************************
* auCdl Netlist:
* 
* Library Name:  ECEC471_Lib
* Top Cell Name: Lab4NOR
* View Name:     schematic
* Netlisted on:  Nov  4 09:34:09 2016
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM p5vonly=0
+ phires=0

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: ECEC471_Lib
* Cell Name:    Lab4NOR
* View Name:    schematic
************************************************************************

.SUBCKT Lab4NOR a b out
*.PININFO a:I b:I out:I
MTN1 out a gnd! gnd! nfet m=1 l=180n w=400n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTN0 out b gnd! gnd! nfet m=1 l=180n w=400n nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP1 out b net10 vdd! pfet m=1 l=180n w=1.99u nf=1 par=1 rf=0 gcon=1 mSwitch=0 
+ bentgate=0 psp=0 idg=0 gns=0
MTP0 net10 a vdd! vdd! pfet m=1 l=180n w=1.99u nf=1 par=1 rf=0 gcon=1 
+ mSwitch=0 bentgate=0 psp=0 idg=0 gns=0
.ENDS

